US08383827B2
Synthesis of 5-cyanobenzofuran-2-ylboronic acid
To benzofuran-5-carbonitrile (500 mg, 3.49 mmol) in THF (9.98 mL) at −78° C. was added nBuLi 1.6M in hexanes (2.401 mL, 3.84 mmol) dropwise. The mixture was stirred for 30 min at this temperature, and then trimethyl borate (0.858 mL, 7.68 mmol) was added dropwise. The mixture was stirred for 20 min, and then HCl 2N (11.52 mL, 23.05 mmol) was added. The bath was removed, and stirring continued for 30 min. The mixture was diluted with water and extracted with EtOAc three times, dried over magnesium sulfate, filtered, concentrated. Crude 5-cyanobenzofuran-2-ylboronic acid (623 mg, 87%) was then dried and used as is for the next step.

reactant | benzofuran-5-carbonitrile | 3.49 mmol, 500 mg | O1C=CC2=C1C=CC(=C2)C#N | C9H5NO
reactant | nBuLi | 1.6M | [Li]CCCC
reactant | trimethyl borate | 7.68 mmol, 0.858 mL | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 23.05 mmol, 2N, 11.52 mL | Cl | ClH
solvent | THF | 9.98 mL | C1CCOC1 | C4H8O
product | 5-cyanobenzofuran-2-ylboronic acid | C(#N)C=1C=CC2=C(C=C(O2)B(O)O)C1 | C9H6BNO3
